US04666510
2-[1-(Ethoxyimino)propyl]-3-hydroxy-5-(3-propionyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (35)
Compound No 35 was prepared from 3-hydroxy-5-mesitylcyclohex-2-en-1-one, propionic anhydride, propionic acid and ethoxyamine hydrochloride following essentially the same procedure as that described in Example 9. The product was characterized by proton nuclear magnetic resonance spectroscopy and the spectroscopic data is recorded in Table 5, Example 37.

reactant | 3-hydroxy-5-mesitylcyclohex-2-en-1-one | OC1=CC(CC(C1)C1=C(C=C(C=C1C)C)C)=O | C15H18O2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | ethoxyamine hydrochloride | Cl.C(C)ON
product | 2-[1-(Ethoxyimino)propyl]-3-hydroxy-5-(3-propionyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)C(CC)=O)C)=O | C23H31NO4
